US06710056B2
4.34 g (20.0 mmol) of di(t-butyl) iminodicarboxylate was added to a mixture of 800 mg (20.0 mmol) of sodium hydride (60% dispersion in mineral oil) and 50 ml of dimethylformamide. 1.71 g (10.0 mmol) of 3-chloromethylbenzoic acid was added to the obtained mixture, and they were stirred at 80° C. for 2 hours. After the concentration under reduced pressure, 40 ml of dioxane containing 4 M of hydrogen chloride was added to the residue, and they were stirred at room temperature overnight. A white precipitate thus formed was taken by the filtration and washed with ethyl acetate to obtain 3-aminomethylbenzoic acid hydrochloride as white crystals. A mixture of this aminomethyl compound, 10 ml of water, 10 ml of 28% aqueous ammonia and 3.00 g (71.4 mmol) of cyanamide was stirred at 60° C. for 7 days. The solvent was evaporated, and the residue was purified by the reversed-phase HPLC in the same manner as that in step 5 in Example 1 to obtain the title compound.

reactant | di(t-butyl) iminodicarboxylate | 20.0 mmol, 4.34 g | N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H19NO4
reactant | sodium hydride | 20.0 mmol, 800 mg | [H-].[Na+]
reactant | 3-chloromethylbenzoic acid | 10.0 mmol, 1.71 g | ClCC=1C=C(C(=O)O)C=CC1 | C8H7ClO2
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 3-aminomethylbenzoic acid hydrochloride | Cl.NCC=1C=C(C(=O)O)C=CC1 | InChI=1S/C8H9NO2.ClH/c9-5-6-2-1-3-7(4-6)8(10)11;/h1-4H,5,9H2,(H,10,11);1H
